US06610707B1
Ethyl-3-bromoproprionate (1.67 ml) was added to a suspension of tert-butyl-1-piperazine carboxylate (2.43 g) and potassium carbonate (2.16 g) in acetonitrile (30 ml). The reaction mixture was stirred for 56 hrs at room temperature, after which time the solvent was removed under reduced pressure and the residue partitioned between dichloromethane and water. The organic layer was separated, dried over magnesium sulphate and the solvent removed under reduced pressure to afford tert-butyl 4-(3-ethoxy-3-oxopropyl)-1-piperazinecarboxylate (2.44 g) as an oil.

reactant | Ethyl-3-bromoproprionate | 1.67 ml | C(C)OC(CCBr)=O | C5H9BrO2
reactant | tert-butyl-1-piperazine carboxylate | 2.43 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 2.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | tert-butyl 4-(3-ethoxy-3-oxopropyl)-1-piperazinecarboxylate | 2.44 g | C(C)OC(CCN1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H26N2O4
